US09062070B2
2,6-difluoro-3-methoxybenzonitrile (4.42 g, 26.1 mmol) was dissolved in DCM (10 mL) at 0° C. then 1 M BBr3 (52.2 mL, 52.2 mmol) was added. The reaction mixture was then warmed up to RT and stirred overnight. The reaction mixture was poured into ice water and extracted with more DCM. The organic layer was separated, dried over Na2SO4, filtered, and evaporated to dryness to yield 2,6-difluoro-3-hydroxybenzonitrile: LC-MS: M+1=156.

reactant | 2,6-difluoro-3-methoxybenzonitrile | 26.1 mmol, 4.42 g | FC1=C(C#N)C(=CC=C1OC)F | C8H5F2NO
reactant | BBr3 | 52.2 mmol, 1 M, 52.2 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,6-difluoro-3-hydroxybenzonitrile | FC1=C(C#N)C(=CC=C1O)F | C7H3F2NO
